US04843100
To 4% phosgen-toluene solution was added 4.0 g of 2-fluoro-4-(1,1,2,2-tetrafluoroethylsulfonyl)aniline, followed by heating under reflux for 3 hours. After the completion of the reaction, the reaction mixture was concentrated to dryness under reduced pressure to give 2-fluoro-4-(1,1,2,2-tetrafluoroethylsulfonyl)phenyl isocyanate as an oily material. In 50 ml of xylene was dissolved the oily material, and 1.5 of 2.6-difluorobenzamide was added to the solution, followed by heating under reflux for 20 hours. After the completion of the reaction, the reaction mixture was cooled to 0° C., and the crystals which separated out was recovered by filtration and recrystallized from acetone to give N-(2,6-difluorobenzoyl)-N'-[2-fluoro-4-(1,1,2,2-tetrafluoroethylsulfonyl)phenyl]urea (Compound No. 5) as crystals having a melting point of 186°-187° C. The melting point of the crystals did not descend in a mixed examination with the product of Example 4.

reactant | phosgen toluene | C(=O)(Cl)Cl.C1(=CC=CC=C1)C
reactant | 2-fluoro-4-(1,1,2,2-tetrafluoroethylsulfonyl)aniline | 4.0 g | FC1=C(N)C=CC(=C1)S(=O)(=O)C(C(F)F)(F)F | C8H6F5NO2S
product | 2-fluoro-4-(1,1,2,2-tetrafluoroethylsulfonyl)phenyl isocyanate | FC1=C(C=CC(=C1)S(=O)(=O)C(C(F)F)(F)F)N=C=O | C9H4F5NO3S
